US07547710B2
A mixture of 6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (10 g, 33 mmol), 25% aqueous ammonia (10 ml), Raney-cobalt (10 ml), methanol (50 ml) and tetrahydrofuran (50 ml) was stirred under a hydrogen atmosphere at 0.5 MPa, 70° C. for 8 hrs. The reaction mixture was filtered and water was added to the filtrate. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (100 ml) and di-tert-butyl dicarbonate (7.8 g, 36 mmol) was added. The mixture was stirred at room temperature for 3 hrs. and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (7.5 g, yield 54%) as pale-yellow crystals.

reactant | 6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 33 mmol, 10 g | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C21H20N2O
reactant | ammonia | 10 ml | N | H3N
reactant | methanol | 50 ml | CO | CH4O
reactant | di-tert-butyl dicarbonate | 36 mmol, 7.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | cobalt | 10 ml | [Co] | Co
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-butyl {[6-hydroxy-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 7.5 g, yield 54% | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H32N2O3
